US04259336
(e) Methyl 4-hydroxy-2-methyl-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide
42.0 gm (0.78 mol) of solid sodium methylate were added in an inert gas atmosphere to a suspension of 286 gm (0.77 mol) of methyl 3-{[(ethoxycarbonylmethyl)-methylamino]sulfonyl}-benzo[b]thiophene-2-carboxylate in 1000 cc of anhydrous methanol. The mixture was stirred for 30 minutes at room temperature and then refluxed for 1 hour. The solvent was distilled off, and the residue was stirred into 500 ml of ice-cold 2 N hydrochloric acid. The precipitated product was filtered off, taken up in 400 cc of chloroform, and the solution was dried over sodium sulfate and evaporated in vacuo. After recrystallizing the residue twice from 100 cc each of methanol, 116 gm (46% of theory) of light-yellow crystals were obtained.

reactant | sodium methylate | C[O-].[Na+]
reactant | methyl 3-{[(ethoxycarbonylmethyl)-methylamino]sulfonyl}-benzo[b]thiophene-2-carboxylate | 0.77 mol, 286 gm | C(C)OC(=O)CN(S(=O)(=O)C=1C2=C(SC1C(=O)OC)C=CC=C2)C | C15H17NO6S2
solvent | methanol | 1000 cc | CO | CH4O
product | Methyl 4-hydroxy-2-methyl-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OC | C13H11NO5S2
